*test circuit
*Vext 1 0 AC 0 EXTERNAL
*Vin 6 0 SIN(0 1m 10k)

Vr Vr 0 AC 0 DC 15
Xpd Vr 1 photodiode cj=15n id=10n rsh=10G rs=10
Ipd Vr 1 AC EXTERNAL

Xtia1 1 2 tia rin=1n cin=1p rf=1k cf=1n rout=10 vp=5 vm=5
Xtia2 2 3 tia rin=1k cin=1p rf=1k cf=1n rout=10 vp=5 vm=5