*test circuit
*Vext 1 0 AC 0 EXTERNAL
*Vin 6 0 SIN(0 1m 10k)

Vr Vr 0 AC 0 DC 15
Xpd Vr 1 control photodiode cj=15p id=10p rsh=10G rs=10
Vpdcont control 0 AC EXTERNAL


Xtia1 1 2 tia rin=1n cin=1p rf=1k cf=1n rout=10 vp=5 vm=5
Xtia2 2 3 tia rin=1k cin=1p rf=1k cf=1n rout=10 vp=5 vm=5